US08476261B2
A solution of [3-(tert-butoxycarbonylamino)oxolan-3-yl]methanol (2.50 g, 11.5 mmol) in 4M HCl-dioxane (30 mL) was stirred at room temperature for 2 h. The mixture was concentrated in vacuo and dried to give (3-aminooxolan-3-yl)methanol hydrochloride as a pale brown oil (2.17 g, quant.). 1H-NMR (400 MHz, DMSO-d6) δ 1.89-2.01 (2H, m), 3.51-3.58 (2H, m), 3.66 (2H, s), 3.71-3.76 (1H, m), 3.86-3.92 (1H, m), 8.33 (3H, brs).

reactant | [3-(tert-butoxycarbonylamino)oxolan-3-yl]methanol | 11.5 mmol, 2.50 g | C(C)(C)(C)OC(=O)NC1(COCC1)CO | C10H19NO4
reactant | HCl dioxane | 4M, 30 mL | Cl.O1CCOCC1
product | (3-aminooxolan-3-yl)methanol hydrochloride | Cl.NC1(COCC1)CO | InChI=1S/C5H11NO2.ClH/c6-5(3-7)1-2-8-4-5;/h7H,1-4,6H2;1H
